US08221905B2
The 100 mL round bottom flask, equipped with magnetic stirrer and refluxed condenser, was charged with 8-iodo-3,4-dihydrodibenzo[b,d]furan (332 mg, 1 mmol), 3-(9-carbazolyl)carbazole (294 mg, 1 mmol), Pd(OAc)2 (23 mg, 10 mol %), P(t-Bu)3 (1 mL of 1M solution in toluene, 1 mmol), potassium tert-buthoxide (150 mg, 1.5 eq) and 100 ml of xylene. The flask was filled with nitrogen, and the reaction mixture was heated to reflux and stirred under nitrogen atmosphere for 24 hours. Then reaction was cooled down to room temperature, filtered through silica plug and evaporated. The residue was subjected to column chromatography on silica gel, eluent hexane/ethyl acetate mixture 9:1, providing 410 mg of 9-(dibenzo[b,d]furan-2-yl)-9H-3,9′-bicarbazole as white solid. The structure was confirmed by NMR and MS spectroscopy.

reactant | 8-iodo-3,4-dihydrodibenzo[b,d]furan | 1 mmol, 332 mg | IC=1C=CC2=C(C3=C(O2)CCC=C3)C1 | C12H9IO
reactant | 3-(9-carbazolyl)carbazole | 1 mmol, 294 mg | C1=CC=CC=2C3=CC=CC=C3N(C12)C=1C=CC=2NC3=CC=CC=C3C2C1 | C24H16N2
reactant | P(t-Bu)3 | 1 mmol, 1M, 1 mL | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | potassium | [K] | K
catalyst | Pd(OAc)2 | 23 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 9-(dibenzo[b,d]furan-2-yl)-9H-3,9′-bicarbazole | 410 mg | C1=C(C=CC=2OC3=C(C21)C=CC=C3)N3C2=CC=CC=C2C=2C=C(C=CC32)N3C2=CC=CC=C2C=2C=CC=CC32 | C36H22N2O
